US09282743B2
Step 4: Preparation of 5-Methoxy-[1,2,5]triazepane hydrochloride salt (compound P4.2)
A solution of 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester in diethyl ether was treated with gaseous hydrogen chloride to generate a white precipitate. The solid was filtered, washed with diethyl ether and dried to afford 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester hydrochloride salt. To a suspension of 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester hydrochloride salt (2.5 g, 6.8 mmol) in ethyl acetate (10 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4 M, 9 ml, 36.0 mmol) at room temperature dropwise. The reaction mixture was heated at 90° C. for one hour, the solvent evaporated, the residue washed with diethyl ether and dried in vacuo. Yield: 1.4 g of 5-methoxy-[1,2,5]triazepane hydrochloride salt (compound P4.2) as a yellowish solid, this material was used without further purification.

reactant | 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester hydrochloride salt | 6.8 mmol, 2.5 g | Cl.C(C)(C)(C)OC(=O)N1N(CCN(CC1)OC)C(=O)OC(C)(C)C
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 36.0 mmol, 4 M, 9 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-[1,2,5]triazepane hydrochloride salt | Cl.CON1CCNNCC1 | InChI=1S/C5H13N3O.ClH/c1-9-8-4-2-6-7-3-5-8;/h6-7H,2-5H2,1H3;1H
